US03965181
This preparation illustrates methods according to step 2 of the process for preparing the compounds of formula A. In this preparation a solution containing 18.3 g. of crude 5-[3-(2-tetrahydropyranyloxy)-prop-1-ynyl]-5H-dibenzo[a,d]cycloheptene in 200 ml. of acetone and 20 ml. of concentrated hydrochloric acid is stirred at room temperature until thin-layer chromatographic analysis of a representative sample indicates hydrolysis to be complete (about 2 hours). The reaction mixture is neutralized by the addition of concentrated ammonium hydroxide and then evaporated under vacuum to remove acetone. The concentrated mixture is extracted with methylene chloride. The methylene chloride extract is washed consecutively with water and saturated brine, then dried over sodium sulfate. The dried extract is evaporated to dryness under vacuum affording a residue of crude 5-(3-hydroxyprop-1-ynyl)-5H-dibenzo[a,d]cycloheptene which is then further purified by column chromatography over silica gel, deactivated by the addition of 10%, by wt., of water, eluting with acetone-hexane mixtures.

reactant | 5-[3-(2-tetrahydropyranyloxy)-prop-1-ynyl]-5H-dibenzo[a,d]cycloheptene | O1C(CCCC1)OCC#CC1C2=C(C=CC3=C1C=CC=C3)C=CC=C2 | C23H22O2
reactant | hydrochloric acid | Cl | ClH
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | acetone | CC(=O)C | C3H6O
product | 5-(3-hydroxyprop-1-ynyl)-5H-dibenzo[a,d]cycloheptene | OCC#CC1C2=C(C=CC3=C1C=CC=C3)C=CC=C2 | C18H14O
